Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid / Macrobid
 
Attending: ___.
 
Chief Complaint:
fatigue
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo female with a history of ovarian cancer who is admitted
with weakness. The patient states she has been feeling very weak
and tired for the last few weeks but even more so today. She
denies any fevers, shortness of breath, nausea, diarrhea, or
dysuria. Of note she was recently admitted from ___
with weakness which improved with IV Fluids. 
In the ED her vital signs were unremarkable and labwork was
unchanged from recent done as an outpatient. 

REVIEW OF SYSTEMS:
- All reviewed and negative except as noted in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- ___ presented at ___ with acute RLQ
abdominal pain. CT notable for 6.3 cm right ovarian cyst.
- ___ right ovarian laparoscopic cystectomy, 6-7 cm cyst
removed with intra-operative rupture, by report there was no
ovarian surface involvement by tumor. ___ path review: high
grade serous carcinoma.
- ___ CA 125 (Quest) 93
- ___ to OR (___) laparoscopy converted to laparotomy 
with
TAH/BSO, pelvic tumor resection, total pelvic lymphadenectomy,
para-aortic LN resection, infracolic omemtectomy, peritoneal
biopsies: ovarian serous carcinoma, no positive LNs, right 
pelvic
sidewall positive for carcinoma, grade 3, with positive 
washings,
thus staged as IIc.
- ___ C1D1 ___ taxol complicated by taxol reaction
- ___ ___ x 6 cycles
- ___ BRCA negative
- ___ rising CA125
- ___ CT scan shows disease recurrence- seen by Dr. ___ possible surgical resection
- ___ Diagnostic laparoscopy, resection of pelvic nodule.
- ___- C1D1 Carboplatin AUC 4 every 4 weeks
- ___- Carboplatin changed to Q5 weeks due to
thrombocytopenia
- ___ C4D1 
- ___ Type and Screen revealed Anti-C antibody
- ___ CT torso- no evidence of local recurrent or 
metastatic
disease within the abdomen or 
pelvis. Stable left pelvic sidewall nodule and adjacent external
iliac lymphocele. Given treatment break.
- ___  Percutaneous pinning left femoral neck
- ___ slight rise in CA125 from 16 to 22. 
- ___ Start C1 Carboplatin AUC 5- c/b chest pain- sent to ED
with negative cardiac w/u
- ___ C2 Carboplatin 
 
PAST MEDICAL HISTORY:  
- Developmental delay with learning disability attributed to
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS
 
Social History:
___
Family History:
FH:
No cancer in first degree relatives. 

 (per OMR):
- paternal grand-aunt with breast ca in her ___
- maternal great-uncle with colon ca
- paternal great grandmother with ovarian ca
 
Physical Exam:
DISCHARGE EXAM
Vitals reviewed and unremarkable, afebrile, not orthostatic
General:  NAD
HEENT:  MMM, no OP lesions
Eyes: anincteric
CV:  RRR, NL S1S2
PULM:  CTAB
ABD:  Soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis
SKIN:  No rashes or skin breakdown
NEURO: Alert and oriented, no focal deficits. 
Psych: normal affect and mood
 
Pertinent Results:
___ 07:20AM BLOOD WBC-3.0* RBC-3.27* Hgb-8.6* Hct-27.2* 
MCV-83 MCH-26.3 MCHC-31.6* RDW-16.0* RDWSD-44.5 Plt Ct-78*
___ 07:20AM BLOOD Glucose-101* UreaN-10 Creat-0.8 Na-145 
K-3.8 Cl-107 HCO3-25 AnGap-13
___ 07:20AM BLOOD VitB12-389
___ 07:20AM BLOOD 25VitD-16*
 
Brief Hospital Course:
___ yo female with a history of ovarian cancer who is admitted 
with generalized weakness and fatigue.

#Weakness: Generalized, with no focal neurologic findings. Able 
to ambulate independently on her own, so physical therapy signed 
off, cleared her to go home without services. Likely secondary 
to recent chemotherapy and ongoing ovarian cancer. Received IVF 
for additional hydration. B12 was within normal limits and 
vitamin D level was low so she was recommended to take a higher 
dose of Vitamin D going forward. TSH was checked and was 
high-normal/minimally elevated at 4.6. No acute need for 
levothyroxine dose adjustment but TFTs should be repeated as an 
outpatient to continue to monitor.

# Ovarian Cancer
- Received C2 carboplatin on ___. Additional chemotherapy 
planned as an outpatient on upcoming ___
- Continue home omeprazole, vitamin D, losartan, Zofran, 
loratidine, and Compazine.

# Pancytopenia: likely secondary to chemotherapy
-patient had overall lower blood counts in all three lineages 
compared to pre-chemotherapy but expected to have some bone 
marrow suppression afterwards. Not neutropenic with ANC of 1810.
- no acute need for blood product transfusions at this time. 
Continue to monitor. She should have repeat labs done as an 
outpatient prior to her next planned chemotherapy on ___. 

# Depression/Anxiety
- Continue home amitriptyline, aripiprazole, duloxetine, and 
lorazepam.
- High ER/hospital utilization partly attributable to increased 
anxiety. continue therapy and counseling as an outpatient.

# Hypothyroidism
- Continue home synthroid. As above, TSH was 
high-normal/minimally elevated at 4.6. No acute need for 
levothyroxine dose adjustment but TFTs should be repeated as an 
outpatient to continue to monitor.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
2. Amitriptyline 25 mg PO QHS 
3. ARIPiprazole 2 mg PO QHS 
4. DULoxetine 120 mg PO DAILY 
5. Gabapentin 600 mg PO QHS 
6. Levothyroxine Sodium 50 mcg PO 6X/WEEK (___) 
7. Levothyroxine Sodium 100 mcg PO 1X/WEEK (___) 
8. Loratadine 10 mg PO DAILY 
9. LORazepam 0.5 mg PO QHS:PRN anxiety, insomnia 
10. Losartan Potassium 50 mg PO DAILY 
11. Morphine Sulfate ___ 15 mg PO BID:PRN Pain - Severe 
12. Naproxen 500 mg PO Q12H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
13. Omeprazole 40 mg PO DAILY 
14. Ondansetron 8 mg PO Q12H:PRN nausea 
15. Polyethylene Glycol 17 g PO DAILY 
16. Prochlorperazine 10 mg PO Q12H:PRN nausea 
17. Vitamin D 1000 UNIT PO DAILY 
18. Estrogens Conjugated 1 gm VG 1X/WEEK (MO) 

 
Discharge Medications:
1.  Vitamin D ___ UNIT PO DAILY  
2.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
3.  Amitriptyline 25 mg PO QHS  
4.  ARIPiprazole 2 mg PO QHS  
5.  DULoxetine 120 mg PO DAILY  
6.  Estrogens Conjugated 1 gm VG 1X/WEEK (MO)  
7.  Gabapentin 600 mg PO QHS  
8.  Levothyroxine Sodium 100 mcg PO 1X/WEEK (___)  
9.  Levothyroxine Sodium 50 mcg PO 6X/WEEK (___)  
10.  Loratadine 10 mg PO DAILY  
11.  LORazepam 0.5 mg PO QHS:PRN anxiety, insomnia  
12.  Losartan Potassium 50 mg PO DAILY  
13.  Morphine Sulfate ___ 15 mg PO BID:PRN Pain - Severe  
14.  Naproxen 500 mg PO Q12H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
15.  Omeprazole 40 mg PO DAILY  
16.  Ondansetron 8 mg PO Q12H:PRN nausea  
17.  Polyethylene Glycol 17 g PO DAILY  
18.  Prochlorperazine 10 mg PO Q12H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fatigue
Generalized weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for generalized weakness and fatigue. You 
received IV fluids for hydration support. Your blood pressure 
was normal and you maintained normal blood pressure with 
positional changes. Your fatigue is likely related to recent 
chemotherapy and your cancer. Your blood count was stable, 
slightly lower than prior to chemotherapy but that is expected, 
and not at a level where you would need blood transfusions.

Sincerely,

Your ___ care team
 
Followup Instructions:
___